US06974806B2
Synthesis of Ethyl 2-(7-chloro-6-methyl-2-oxo-4-phenyl-2H-chromen-3-yl)acetate
A solution of (4-chloro-2-hydroxy-5-methylphenyl)(phenyl)methanone (5.0 g) and triethylamine (5.65 ml) in THF (100 ml) was combined with ethyl succinyl chloride (3.47 ml) at 0° C., and stirred for 1 hour. The reaction solution was combined with water, and the product was extracted with ethyl acetate. The extract was washed with a 1 N solution of hydrochloric acid followed by a saturated aqueous solution of sodium chloride, and after drying over magnesium sulfate, the solvent was distilled off under reduced pressure. The resultant residue was dissolved in toluene (50 ml), combined with DBU (1.25 ml), and heated under reflux for 2.5 hours. After cooling, the reaction solution was diluted with ethyl acetate (100 ml), and washed with water followed by a 1 N solution of hydrochloric acid and a saturated aqueous solution of sodium chloride. After drying over magnesium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by a column chromatography (packing: silica gel, eluent: ethyl acetate-hexane=1:4) and further purified by recrystallization from ethyl acetate-hexane to obtain the title compound (3.86 g, yield: 53%).

reactant | (4-chloro-2-hydroxy-5-methylphenyl)(phenyl)methanone | 5.0 g | ClC1=CC(=C(C=C1C)C(=O)C1=CC=CC=C1)O | C14H11ClO2
reactant | triethylamine | 5.65 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl succinyl chloride | 3.47 ml | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl 2-(7-chloro-6-methyl-2-oxo-4-phenyl-2H-chromen-3-yl)acetate | 3.86 g, yield: 53% | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)OCC)C1=CC=CC=C1)C | C20H17ClO4
